US07557114B2
(a) 3-(2-Benzyl-2,3-dihydro-1H-isoindol-5-yl)-oxetan-3-ol
Prepared in analogy to Example A62(b) from 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole (Example A62(a)) and oxetan-3-one (CAS: 6704-31-0). Brown solid. MS (m/e): 282.4 ([M+H]+, 100%).

reactant | 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)Br | C15H14BrN
reactant | oxetan-3-one | O1CC(C1)=O | C3H4O2
product | 3-(2-Benzyl-2,3-dihydro-1H-isoindol-5-yl)-oxetan-3-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(COC1)O | C18H19NO2
